USRE039419E1
7-Hydroxy-6-methoxy-1-tetralone
A solution of 10 g (0.048 mole) of 6,7-dimethoxy-1-tetralone in 100 ml of HOAc and 100 ml of 48% aqueous HBr was heated at 95° C. for 7 hours. The reaction was cooled to room temperature and poured into water and extracted with EtOAc. The EtOAc layer was dried and evaporated to 12 g of crude product. Purification on 1200 g of silica gel eluting with 10% Et2O in CH2Cl2 gave 7.5 g of product. Mp 147-148° C. (literature mp 148-152° C., Journal of Organic Chemistry, 33, 1968, p. 508).

reactant | 6,7-dimethoxy-1-tetralone | 0.048 mole, 10 g | COC=1C=C2CCCC(C2=CC1OC)=O | C12H14O3
reactant | water | O | H2O
solvent | HOAc | 100 ml | CC(=O)O | C2H4O2
solvent | HBr | 100 ml | Br | BrH
product | 7-Hydroxy-6-methoxy-1-tetralone | 7.5 g | OC1=C(C=C2CCCC(C2=C1)=O)OC | C11H12O3
